US07786129B2
3-{5-[4-(2-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydro-chloride
The title compound is prepared according to process H by applying processing method 2 starting from 3-(5-bromopentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(2-chlorophenyl)-piperazine.

reactant | 3-(5-bromopentyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | BrCCCCCC1(C(NC2=CC=CC=C12)=O)CC | C15H20BrNO
reactant | 1-(2-chlorophenyl)-piperazine | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
product | 3-{5-[4-(2-chlorophenyl)-piperazin-1-yl]-pentyl}-3-ethyl-1,3-dihydro-2H-indol-2-one monohydro-chloride | Cl.ClC1=C(C=CC=C1)N1CCN(CC1)CCCCCC1(C(NC2=CC=CC=C12)=O)CC | InChI=1S/C25H32ClN3O.ClH/c1-2-25(20-10-4-6-12-22(20)27-24(25)30)14-8-3-9-15-28-16-18-29(19-17-28)23-13-7-5-11-21(23)26;/h4-7,10-13H,2-3,8-9,14-19H2,1H3,(H,27,30);1H
